US08076364B2
Propylamine (0.65 g) is dissolved in tetrahydrofuran (5 ml) and thereto is added pyridine (0.89 ml), followed by an addition dropwise of methyl adipoyl chloride (1.96 g) under ice-cooling and the mixture is stirred at room temperature for 1 hour. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in tetrahydrofuran (30 ml) and thereto is added sodium borohydride (1.93 g) at room temperature and the mixture is heated to 65° C. and thereto is added dropwise acetic acid (2.92 ml) over 1 hour and the mixture is stirred at the same temperature for 9 hours. To reaction mixture is added an ice-cooled dilute hydrochloric acid, and the mixture is stirred for 30 minutes and extracted with ethyl acetate, and the organic layer is washed with a mixed solution of a saturated aqueous sodium bicarbonate solution and a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in methanol (5 ml) and thereto is added a 4N-hydrochloric acid in dioxane (7.5 mL) and the mixture is stirred at room temperature overnight. To the reaction mixture is added a saturated aqueous sodium bicarbonate solution and a saturated brine, and the mixture is extracted six times with ethyl acetate and the collected organic layer is dried over magnesium sulfate, and concentrated under reduced pressure to give methyl 6-propylamino-hexanoate (914 mg). MS (m/z): 188 [M+H]+

reactant | Propylamine | 0.65 g | C(CC)N | C3H9N
reactant | pyridine | 0.89 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl adipoyl chloride | 1.96 g | CC(C(=O)Cl)CCCC(=O)Cl | C7H10Cl2O2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | methyl 6-propylamino-hexanoate | 914 mg | C(CC)NCCCCCC(=O)OC | C10H21NO2
